US08022218B2
(c). 4-(3-Bromo-5-ethoxy-4-hydroxy-phenyl)-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carboxylic acid (1S)-[1-(4-methoxy-phenyl)-ethyl]-amide
A mixture of (S)-3-amino-but-2-enoic acid [1-(4-methoxy-phenyl)-ethyl]-amide (10 g), 3-bromo-5-ethoxy-4-hydroxy-benzaldehyde (10.4 g) and 5-propylcyclohexane-1,3-dione (6.5 g) in ethanol (150 ml) was stirred at 80° C. for 18 hr. The mixture was concentrated in vacuo. The residue was dissolved in toluene (100 ml) and dichloromethane (50 ml) and evaporated until a precipitated formed. The solid obtained was then crystallized in EtOAc.

reactant | (S)-3-amino-but-2-enoic acid [1-(4-methoxy-phenyl)-ethyl]-amide | 10 g | COC1=CC=C(C=C1)[C@H](C)NC(C=C(C)N)=O | C13H18N2O2
reactant | 3-bromo-5-ethoxy-4-hydroxy-benzaldehyde | 10.4 g | BrC=1C=C(C=O)C=C(C1O)OCC | C9H9BrO3
reactant | 5-propylcyclohexane-1,3-dione | 6.5 g | C(CC)C1CC(CC(C1)=O)=O | C9H14O2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-(3-Bromo-5-ethoxy-4-hydroxy-phenyl)-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carboxylic acid (1S)-[1-(4-methoxy-phenyl)-ethyl]-amide | COC1=CC=C(C=C1)[C@H](C)NC(=O)C1=C(NC=2CC(CC(C2C1C1=CC(=C(C(=C1)OCC)O)Br)=O)CCC)C | C31H37BrN2O5
